US08071584B2
1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(tetrahydro-3-thienyl)-1H-indole-1,7-dicarboxylate
Boc2O (398 mg, 1.8 mmol) and DMAP (56 mg, 0.46 mmol) were added to a solution of methyl 5-bromo-3-(tetrahydro-3-thienyl)-1H-indole-7-carboxylate (312 mg, 0.91 mmol) in CH3CN (6.5 mL) and DCM (3.5 mL) at RT. The reaction was stirred at room temperature overnight and filtered through a silica gel pad, eluting with DCM. The filtrate was concentrated to give 430 mg crude product.

reactant | Boc2O | 1.8 mmol, 398 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methyl 5-bromo-3-(tetrahydro-3-thienyl)-1H-indole-7-carboxylate | 0.91 mmol, 312 mg | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)C1CSCC1 | C14H14BrNO2S
catalyst | DMAP | 0.46 mmol, 56 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH3CN | 6.5 mL | CC#N | C2H3N
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 1-(1,1-dimethylethyl) 7-methyl 5-bromo-3-(tetrahydro-3-thienyl)-1H-indole-1,7-dicarboxylate | 430 mg | BrC=1C=C2C(=CN(C2=C(C1)C(=O)OC)C(=O)OC(C)(C)C)C1CSCC1 | C19H22BrNO4S
